US06608071B2
115b) 3-Amino-6-iodo-benzotrifluoride
In the presence of 1.7 g of Raney nickel, 8.6 g (27 mmol) of 4-iodo-3-trifluoromethyl-nitro-benzene are hydrogenated in 170 ml of methanol. The reaction mixture is filtered over Celite. Concentration of the filtrate by evaporation yields the oily title compound, which slowly crystallises when left to stand: 1H NMR (CDCl3) 7.63 (d, 1H), 6.98 (d, 1H), 6.54 (dd, 1H), 5.75 (s, H2N); FAB-MS (M+H)+=288.

reactant | 4-iodo-3-trifluoromethyl-nitro-benzene | 27 mmol, 8.6 g | IC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F3INO2
catalyst | Raney nickel | 1.7 g | [Ni] | Ni
solvent | methanol | 170 ml | CO | CH4O
product | 3-Amino-6-iodo-benzotrifluoride | NC=1C=C(C(=CC1)I)C(F)(F)F | C7H5F3IN
